US07148226B2
6-cyclopentyl-4-hydroxy-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}-3-[(6-methyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-5,6-dihydro-2H-pyran-2-one
6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (0.88 g, 0.546 mmol) was added to a solution of example A(228) 6-cyclopentyl-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione (0.175 g, 0.455 mmol) and borane-dimethylamine complex (53 mg, 0.9 mmoL) in MeOH (10 mL). The reaction was stirred at room temperature for 15 hours, after which time the mixture was concentrated to a residual oil, and purified by preparatory HPLC to afford the title compound as a white solid (50 mg). 1H NMR (DMSO): δ 1.35–1.85 (brm, 8H), 2.00–2.20 (brm, 3H), 2.50 (s, 3H), 2.74 (s, 2H), 2.99(m, 2H); 3.04 (m, 2H), 3.54 (m, 3H), 6.81 (m, 2H), 7.00(s, 1H), 8.55 (s, 1H), 8.72 (s, 1H). Anal. Calcd. For C27H29O4N4F3: C, 61.14; H, 5.51; N, 9.06. Found: C, 61.21; H, 5.60; N, 9.14.

reactant | 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 0.546 mmol, 0.88 g | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
reactant | 6-cyclopentyl-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione | 0.455 mmol, 0.175 g | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)O)CC(F)(F)F | C20H23F3O4
solvent | MeOH | 10 mL | CO | CH4O
product | 6-cyclopentyl-4-hydroxy-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}-3-[(6-methyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-5,6-dihydro-2H-pyran-2-one | 50 mg | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=CC(=C2)C)=N1)O)CCC1=CC(=C(C=C1)O)CC(F)(F)F | C27H29F3N4O4
